US05763599
N6 -(2-(4-nitrophenyl)ethoxycarbonyl)-2'-deoxyadenosine (5 g, 11.3 mmol) was co-evaporated with pyridine (2×60 ml, pro analysi quality, additionally dried over molecular sieve 4 Å), dissolved in pyridine (60 ml, see above) and cooled to -60° C. (i-PrOH/N2). A solution of 2-(2-chloro-6-nitrophenyl)ethoxycarbonyl chloride (4.17 g, 15.8 mmol) in CH2Cl2 (60 ml, dist. over CaH2) was added dropwise for 2 h. After it had been stirred another 2 h in conditions of i-PrOH/N2 cooling (-40° to -25° C.), the mixture was diluted with CH2Cl2 (150 ml) and washed with H2O (100 ml). The aqueous phases were post-extracted with CH2Cl2 (100 ml). Drying the organic phases over Na2SO4, filtering, evaporating the solvent under reduced pressure and co-evaporating with toluene (3×50 ml) yielded the crude product (8.73 g) which was purified by column chromatography (400 g SiO2, 28×5.7 cm, solvent: CH2Cl2 /MeOH 100:3). 5'-O-(2-(2-chloro-6-nitrophenyl)ethoxycarbonyl)-N6 -(2-(4-nitrophenyl)ethoxycarbonyl)-2'-deoxyadenosine (6.318 g, 83%) was obtained as a colourless foam.

reactant | N6 -(2-(4-nitrophenyl)ethoxycarbonyl)-2'-deoxyadenosine | 11.3 mmol, 5 g | [N+](=O)([O-])C1=CC=C(C=C1)CCOC(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C19H20N6O7
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-(2-chloro-6-nitrophenyl)ethoxycarbonyl chloride | 15.8 mmol, 4.17 g | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCOC(=O)Cl | C9H7Cl2NO4
reactant | i-PrOH N2 | CC(C)O.N#N
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
product | 5'-O-(2-(2-chloro-6-nitrophenyl)ethoxycarbonyl)-N6 -(2-(4-nitrophenyl)ethoxycarbonyl)-2'-deoxyadenosine | 6.318 g, 83% | ClC1=C(C(=CC=C1)[N+](=O)[O-])CCOC(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C=NC=2C(NC(=O)OCCC3=CC=C(C=C3)[N+](=O)[O-])=NC=NC12)O | C28H26ClN7O11
